US06887877B2
To a stirred solution of 5-(4-{[(1-Methoxycarbonyl-2-phenyl-ethyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-furan-2-carboxylic acid methyl ester (16 mg, 0.026 mmol.) in THF:H2O:MeOH (3:1:2) (1 ml.), was added LiOH in water (1N) (0.2 ml. 0.26 mmol.). The reaction mixture was stirred at room temperature during 1 hr. TLC monitored the progress of the reaction. When the reaction was completed, the mixture was concentrated under reduced pressure on a rotary evaporator. The residue was treated with a solution 20% of KHSO4 and extracted in EtOAc. The EtOAc layer was dried over Na2SO4. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by silica chromatography using 90% EtOAc, 10% MeOH and 1 drop of AcOH, afforded 5-(4-{[(1-Carboxy-2-phenyl-ethyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-furan-2-carboxylic acid. 1HNMR (Varian 400 MHz, DMSO) δ7.37 (d, 2H, J=8.5 Hz, HPh), 7.27 (d, 2H, J=8.3 Hz, HPh), 7.13 (m, 6H, HPh), 6.69 (d, 1H, J=3.2 Hz, furanH), 6.58 (d, 1H, J=3.2 Hz, furanH), 6.50 (s, 1H, MTRH), 4.81 (d, 1H, J=15.5 Hz, NCH2Ph), 4.41 (d, 1H, J=15.9 Hz, NCH2Ph), 4.06 (dd, 1H, J=3.5 and 9.5 Hz, CHCH2), 3.64 (s, 3H, OCH3), 3.10 (dd, 1H, J=9.5 and 12.6 Hz, CHCH2), 2.65 (dd, 1H, J=3.8 and 12.6 Hz, CHCH2), 2.49 (s, 3H, ArCH3), 2.38 (s, 3H, ArCH3), 1.92 (s, 3H, ArCH3) ppm. MS 576.5 (M−).

reactant | 5-(4-{[(1-Methoxycarbonyl-2-phenyl-ethyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-furan-2-carboxylic acid methyl ester | 0.026 mmol, 16 mg | COC(=O)C=1OC(=CC1)C1=CC=C(C=C1)CN(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)C(CC1=CC=CC=C1)C(=O)OC | C33H35NO8S
reactant | LiOH | [Li+].[OH-]
reactant | water | 0.26 mmol, 1N, 0.2 ml | O | H2O
solvent | THF H2O MeOH | 1 ml | C1CCOC1.O.CO
product | 5-(4-{[(1-Carboxy-2-phenyl-ethyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-furan-2-carboxylic acid | C(=O)(O)C(CC1=CC=CC=C1)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C31H31NO8S
